US04215220
Reaction of 1-[3-(2,4-dichloroanilino)-2-hydroxypropyl]-imidazole with 3-chlorobenzyl bromide yields 1-[2-(3-chlorobenzyloxy)-3-(2,4-dichloroanilino)-propyl]-imidazole; M.P. of oxalate salt is 118°-119° C.

reactant | 1-[3-(2,4-dichloroanilino)-2-hydroxypropyl]-imidazole | ClC1=C(NCC(CN2C=NC=C2)O)C=CC(=C1)Cl | C12H13Cl2N3O
reactant | 3-chlorobenzyl bromide | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
product | 1-[2-(3-chlorobenzyloxy)-3-(2,4-dichloroanilino)-propyl]-imidazole | ClC=1C=C(COC(CN2C=NC=C2)CNC2=C(C=C(C=C2)Cl)Cl)C=CC1 | C19H18Cl3N3O
